US06638929B2
To a 0° C. solution of 164 mg (0.417 mmol) of 8-amino-4-(3-bromoanilino)-[1]benzothieno[3,2-b]pyridine-3-carbonitrile and 120 mg (0.626 mmol) of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride in 2 mL of dimethylformamide and 2 mL of tetrahydrofuran is added 0.045 mL (0.656 mmol) of acrylic acid followed by 0.110 mL (0.633 mmol) of diisopropylethylamine. The reaction mixture is stirred at room temperature for 4 hours then partitioned between methylene choride and water. The aqueous layer is extracted with additional methylene chloride and the organic layers are combined, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash chromatography, eluting with a gradient of 95:5 methylene chloride/methanol to 9:1 methylene chloride/methanol, to provide 69 mg of N-[4-(3-bromoanilino)-3-cyano[1]benzothieno[3,2-b]pyridin-8-yl]acrylamide as a light tan solid, mp>300° C. dec.

reactant | 8-amino-4-(3-bromoanilino)-[1]benzothieno[3,2-b]pyridine-3-carbonitrile | 0.417 mmol, 164 mg | NC=1C=CC2=C(C1)C1=NC=C(C(=C1S2)NC2=CC(=CC=C2)Br)C#N | C18H11BrN4S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.626 mmol, 120 mg | Cl.CN(CCCN=C=NCC)C
reactant | acrylic acid | 0.656 mmol, 0.045 mL | C(C=C)(=O)O | C3H4O2
reactant | diisopropylethylamine | 0.633 mmol, 0.110 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-[4-(3-bromoanilino)-3-cyano[1]benzothieno[3,2-b]pyridin-8-yl]acrylamide | 69 mg | BrC=1C=C(NC2=C3C(=NC=C2C#N)C2=C(S3)C=CC(=C2)NC(C=C)=O)C=CC1 | C21H13BrN4OS
